US05539091
(a) Preparation of N-octylglucosylamine
The process was carried out in essentially the same manner as in Example 1, but using 9 g of glucose and 13.2 g of octylamine.

reactant | glucose | 9 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | octylamine | 13.2 g | C(CCCCCCC)N | C8H19N
product | N-octylglucosylamine | C(CCCCCCC)NC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C14H29NO5
